US06291122B1
A 2 liter Hoppes Reactor equipped with a vacuum line, and distillation apparatus was charged with 750 grams of bisphenol A obtained from Shell Chemical, 674 grams of propylene carbonate obtained as JEFFSOL PC from Huntsman Chemicals, 20.8 grams of glycerine carbonate obtained as JEFFSOL GC from Huntsman Chemicals and 1.5 grams of potassium carbonate. The mixture was heated to 180° C. over a 3 hour period with stirring and maintained at that temperature for an additional 4 hours. The reactor was then charged with 385.5 grams of fumaric acid (resin grade) from Bartek Ingredients Ink Company, 1.5 grams of butylstannoic acid obtained as FASCAT 4100 from Elf Atochem, and 220 milligrams of hydroquinone. The temperature was then raised to 190° C. over a 2 hour period, and the pressure was then reduced from 760 Torr to 6.5 Torr over a 3 hour period, wherein water was collected in the distillation receiver. The resin, copoly(propoxylated bisphenol A co-fumarate)-copoly(glycerinoxylated bisphenol A co-fumarate), was then discharged through the bottom drain valve, and exhibited a glass transition temperature (onset) of 60.2° C. determined by using the DuPont differential scanning calorimeter and obtained during the second heating cycle of the resin at a heating rate of 10° C. per minute. The melt index of this resin was found to be 13.6 grams per 10 minutes using a 2.16 kilograms weight at a temperature of 117° C. The softening point of this resin determined using the Mettler softening point apparatus was found to be 116° C. The weight average molecular weight was found to be 20,700 grams/mole and the number average molecular weight was found to be 4,600 grams as measured by the gel permeation chromatography and using tetrahydrofuran as the solvent and polystyrene as the standard. The acid number of this resin product was 27 milligrams of KOH per gram of sample.

reactant | bisphenol A | 750 grams | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | propylene carbonate | 674 grams | C1(OCC(C)O1)=O | C4H6O3
product | glycerine carbonate | 20.8 grams | C(O)(O)=O.OCC(O)CO | InChI=1S/C3H8O3.CH2O3/c4-1-3(6)2-5;2-1(3)4/h3-6H,1-2H2;(H2,2,3,4)
